US06323217B2
Step A: 8-[3-(Benzofuran-2-yl)propyl]-1, 4-dioxa-8-azaspiro[4.5]decane
A solution of 5 g of 3-(benzofuran-2-yl)-1-bromopropane, 3 g of 1, 4-dioxa-8-azaspiro[4.5]decane and 5.8 g of potassium carbonate in 200 ml of acetone is refluxed for 24 hours, and then evaporated to dryness. The residue is taken up in ethyl acetate, washed with water, dried and evaporated to yield the expected product.

reactant | 3-(benzofuran-2-yl)-1-bromopropane | 5 g | O1C(=CC2=C1C=CC=C2)CCCBr | C11H11BrO
reactant | 1, 4-dioxa-8-azaspiro[4.5]decane | 3 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | potassium carbonate | 5.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 8-[3-(Benzofuran-2-yl)propyl]-1, 4-dioxa-8-azaspiro[4.5]decane | O1C(=CC2=C1C=CC=C2)CCCN2CCC1(OCCO1)CC2 | C18H23NO3
